US07399759B2
6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-N-propyl-2-pyridinecarboxamide
A mixture of methyl thiosalicylate (4.2 g, 25 mmol), 6-cyano-N-propyl-2-pyridinecarboxamide (2.5 g, 13 mmol), triethylamine (4.0 ml, 28 mmol) and toluene (8 ml) was refluxed for 8 hrs as described in Example 1. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-tetrahydrofuran to give the titled compound (3.4 g, 78%) as crystals.

reactant | methyl thiosalicylate | 25 mmol, 4.2 g | C(C=1C(S)=CC=CC1)(=O)OC | C8H8O2S
reactant | 6-cyano-N-propyl-2-pyridinecarboxamide | 13 mmol, 2.5 g | C(#N)C1=CC=CC(=N1)C(=O)NCCC | C10H11N3O
reactant | triethylamine | 28 mmol, 4.0 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(4-Oxo-4H-1,3-benzothiazin-2-yl)-N-propyl-2-pyridinecarboxamide | 3.4 g, 78% | O=C1N=C(SC2=C1C=CC=C2)C2=CC=CC(=N2)C(=O)NCCC | C17H15N3O2S
